US07943795B2
A. Diastereomeric isomer pair 1 of N-methyl-2-[6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carbonyl-amino]acetic acid ethyl ester
Following a procedure analogous to Example 7E esterify the diastereomeric isomer pair 1 of 6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carboxylic acid using N-methyl glycine ethyl ester hydrochloride to provide the title compound as a white foam (315 mg, 88%). 1NMR (400 MHz, CDCl3) δ ppm: 0.64 (t, J=7.2 Hz, 6H), 0.93 (t, J=8.4 Hz, 3H), 0.93 (s, 9H), 1.31 (m, 3H), 1.68 (m, 1H), 1.80 (m, 1H), 2.12 (s, 3H), 2.17 (q, 4H), 2.60 (bs, 1H), 3.11 (s, 2H), 3.16 (s, 1H), 3.27 (s, 1H), 4.05 (s, 0.73H), 4.27 (m, 3H), 4.32 (s, 1.27H), 6.63 (d, J=8.8 Hz, 1H), 6.90 (s, 1H), 6.93 (d, J=8.8 Hz, 1H), 7.16 (d, J=10.0 Hz, 1H), 7.49 (m, 1H), 7.55 (d, J=7.6 Hz, 1H), 7.68 (m, 1H), 7.81 (s, 1H), 7.87 (m, 2H). High Res. ES-MS: 598.3488; calc. for C36H49NO5+Na: 598.3509. Analysis for C36H49NO5; Calcd: C, 75.10; H, 8.58; N, 2.43. Found: C, 75.04; H, 8.58; N, 2.43.

reactant | 6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carboxylic acid | C(C)C(CC)(C1=CC(=C(C=C1)OC(C(C(C)(C)C)O)CC)C)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C31H40O4
reactant | N-methyl glycine ethyl ester hydrochloride | Cl.C(C)OC(CNC)=O
product | N-methyl-2-[6-{1-ethyl-1-[4-(1-ethyl-2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-naphthalene-2-carbonyl-amino]acetic acid ethyl ester | 315 mg, 88% | C(C)OC(CN(C)C(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(C1=CC(=C(C=C1)OC(C(C(C)(C)C)O)CC)C)CC)=O | C36H49NO5
